US07608639B2
4-Fluoro-2-methyl-benzaldehyde
A −78° C. solution of 2-bromo-5-fluorotoluene (12.0 g, 63.5 mmol) in dry THF (60 mL) is treated with a 1.6 M hexanes solution of n-butyl lithium (59.5 mL, 95.3 mmol) and then stirred for 15 minutes at −78° C. under N2. The mixture is then treated with DMF (27.8 g, 0.381 mol) and warmed to rt. The reaction is acidified with 1 N HCl, diluted with Et2O and extracted with water. The organic layer is dried (Na2SO4), and the solvent removed in vacuo to afford crude product that is absorbed on silica gel and purified by flash chromatography using a gradient of 5/1 to 3/1 to hexanes/ethyl acetate to afford 6.24 g (71%) of the title compound. Rf=0.49 (2/1 hexanes/EtOAc). 1H NMR (400 MHz, CDCl3).

reactant | 2-bromo-5-fluorotoluene | 63.5 mmol, 12.0 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | n-butyl lithium | 95.3 mmol, 59.5 mL | C(CCC)[Li]
reactant | DMF | 0.381 mol, 27.8 g | CN(C)C=O | C3H7NO
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
product | 4-Fluoro-2-methyl-benzaldehyde | 6.24 g, 71% | FC1=CC(=C(C=O)C=C1)C | C8H7FO
